US08202856B2
1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)piperidin-4-ol
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde, obtained as described in Example 113, Step 1, (100 mg; 0.24 mmol) and 4-hydroxypiperidine (49.1 mg; 0.48 mmol) to give Example 141 as a white solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.76-8.73 (2H, m), 7.97-7.87 (3H, m), 7.76-7.69 (1H, m), 7.61 (2H, dd, J=4.5, 1.6 Hz), 7.52 (4H, t, J=8.4 Hz), 4.57 (1H, d, J=4.1 Hz), 3.56-3.43 (3H, m), 2.70 (2H, d, J=10.5 Hz), 2.13-2.04 (2H, m), 1.74 (2H, d, J=12.0 Hz), 1.48-1.37 (2H, m). LC/MS (Method C): 498 (M+H)+. HPLC (Method E) Rt 2.13 min (Purity: 99.9%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | 4-hydroxypiperidine | 0.48 mmol, 49.1 mg | OC1CCNCC1 | C5H11NO
product | 1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)piperidin-4-ol | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(CN2CCC(CC2)O)C=C1 | C27H24FN7O2
